Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
Diarrhea for 1 month
 
Major Surgical or Invasive Procedure:
Lumbar puncture
Colonscopy
Renal Biopsy

 
History of Present Illness:
___ y/o F with hx of accelerated phase CML s/p sibling allo D0 
___ c/b upper and lower GI GVHD ___, liver GVHD in 
setting of reducing immunosuppression ___, GVHD related 
myopathy resulting in weakness and respiratory failure ___, 
hx of multifocal pna with paecilomyces on bronch who was sent in 
from clinic for worsening pancytopenia in setting of ponatinib 
therapy and chronic diarhea. Pt has been feeling increasingly 
fatigued over last several weeks with persistent loose 
non-bloody stools, ranging from ___/ day. She has had no 
appetite and estimates loosing close to 15 pounds over last few 
weeks. Has had persistent nausea with no emesis. Also promotes 
increasing SOB with exertion and muscle weakness. Associated 
with lightheadedness when standing but no cp or palpitations. 
Symptoms had initially improved following prbc 2 weeks ago. Pt 
also promotes increasing cough this morning and some sputum 
production. Denies any sf/chills/sweats. Also promotes painful 
lesion on left lateral tongue which has been present for last 
few weeks. She denies any muscle pain and CK normal at outpt 
appointment. No calf tenderness. 

 
Past Medical History:
ONCOLOGIC HISTORY:  
- ___: Bone marrow biopsy showed myeloproliferative  
disorder, likely chronic myelogenous leukemia. Per patient  
report, began taking interferon three times weekly shortly  
after diagnosis.  
- ___: Started Gleevec 400 mg daily. At some point  
thereafter, her dose was increased to 600 mg daily  
- ___: Gleevec increased to 400 mg twice daily with  
hydroxyurea and allopurinol  
- ___: Seen at ___, found to be  

in late chronic phase CML. Stem cell transplant was  
recommended, but she did not wish to pursue this course.  
- ___: Gleevec held due to worsening anemia and  
thrombocytosis. Started on Nilotinib  
- ___: Nilotinib held due to QTC prolongation, started on  
Dasatinib  
- ___: First seen at ___. Bone marrow biopsy showed  
accelerated phase CML. began induction chemo with 7+3.  
- ___: Admission for MRD SCT  
- ___: Discharged on day +32. Transplant complicated by  
mucositis with biopsy of the esophagus suggesting upper GI GVHD  

which was treated with steroids.  
- ___ colonoscopy showing lower GI GVHD  
- ___ readmitted with recurrent aGVHD of the liver upper 
and
lower GI tract in the setting of reducing immunosuppression  
  
PMHx:  
- atherosclerotic coronary vascular disease  
- status post CABG in ___  
- hypertension  
- hyperlipidemia  
- Right ankle surgery in ___  
- Total abdominal hysterectomy in ___  
- Appendectomy at age ___  

 
Social History:
___
Family History:
Father - died of MI, no other health problems
Mother - had heart problems, DM

 
Physical Exam:
Admission:
GENERAL - ill appearing female w/ alopecia
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, dry mucous 
membranes with large amphthous ulcer on left lateral tongue 
surface and smaller on on posterior gum. 
NECK - supple, no thyromegaly, no JVD, no carotid bruits  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use. 
Dry, flaking skin over R latetal chest wall. 
HEART - PMI non-displaced, RRR, ___ systolic flow murmur, 
rubs or gallops  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - many ecchymosis over extremities, dry scaling skin 
over back, 2+ peripheral pulses (radials, DPs)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  

Discharge:
VS: 98.3  130/85  85 18 98%RA
General: chronically ill appearing, very pleasant woman, NAD, 
alopecia
LINES: Picc in place, c/d/i
Skin: multiple ecchymoses over body, skin peeling along back and 
upper thighs bilaterally, skin very tight appearing on upper and 
lower extremities b/l
HEENT: NCAT, MMM, sclera anicteric
lungs: CTA b/l, no wheezes, rhonchi, crackles noted
CV: RRR S1 S2
Abdomen: soft, nontender, nondistended, +BS
extremities: trace pedal edema b/l
Neuro: alert and oriented, moving all extremities spontaneously  


 
Pertinent Results:
Admission:

___ 01:55PM BLOOD WBC-1.5* RBC-3.35*# Hgb-9.2*# Hct-28.3*# 
MCV-85 MCH-27.6 MCHC-32.6 RDW-18.1* Plt Ct-63*
___ 01:55PM BLOOD Neuts-82.0* Lymphs-13.1* Monos-4.2 
Eos-0.6 Baso-0.1
___ 01:55PM BLOOD UreaN-43* Creat-2.5* Na-135 K-5.0 Cl-105 
HCO3-16* AnGap-19
___ 01:55PM BLOOD ALT-16 AST-17 LD(LDH)-527* CK(CPK)-38 
AlkPhos-229* Amylase-64 TotBili-0.4

Troponins:
___ 12:10AM BLOOD CK-MB-5 cTropnT-0.21*
___ 10:30AM BLOOD CK-MB-5 cTropnT-0.24*
___ 03:39PM BLOOD cTropnT-0.23*
___ 12:08PM BLOOD CK-MB-4 cTropnT-0.21*

Other Labs:
___ 05:00PM BLOOD VitB12-1063* Ferritn-5306*
___ 03:28AM BLOOD Cryoglb-NO CRYOGLO
___ 05:00PM BLOOD IgG-82* IgA-11* IgM-4*
___ 12:40AM BLOOD C3-105 C4-37
___ 02:58AM BLOOD WBC-7.2 RBC-3.01* Hgb-9.6* Hct-27.7* 
MCV-92 MCH-31.8 MCHC-34.6 RDW-22.1* Plt ___
___ 04:21AM BLOOD WBC-6.1 RBC-2.65* Hgb-8.5* Hct-24.4* 
MCV-92 MCH-32.2* MCHC-34.9 RDW-22.0* Plt Ct-86*
___ 05:22AM BLOOD WBC-2.3* RBC-2.57* Hgb-7.7* Hct-22.9* 
MCV-89 MCH-30.0 MCHC-33.5 RDW-21.3* Plt Ct-90*
___ 12:19AM BLOOD WBC-4.9 RBC-2.84* Hgb-8.5* Hct-25.5* 
MCV-90 MCH-30.0 MCHC-33.5 RDW-21.9* Plt ___
___ 07:20AM BLOOD Glucose-93 UreaN-31* Creat-2.2* Na-133 
K-3.9 Cl-108 HCO3-13* AnGap-16
___ 04:21AM BLOOD Glucose-91 UreaN-58* Creat-2.0* Na-137 
K-3.9 Cl-109* HCO3-20* AnGap-12
___ 02:01AM BLOOD ALT-25 AST-43* LD(LDH)-661* AlkPhos-232* 
TotBili-0.3
___:21AM BLOOD ALT-35 AST-27 LD(LDH)-460* AlkPhos-170* 
TotBili-0.4
___ 11:06AM BLOOD 25VitD-34
___ 11:06AM BLOOD IgG-302*

Graft Chimerism Study: 100% donor

ASPERGILLUS GALACTOMANNAN ANTIGEN Neg 
B-GLUCAN Neg
HERPES 6 DNA PCR, QUANTITATIVE Neg
PARVOVIRUS B19 DNA Neg 
HERPES 6 DNA PCR, QUANTITATIVE Neg 
EBV PCR, QUANTITATIVE, WHOLE BLOOD Neg 
COPPER 61  
ZINC 51 
HERPES SIMPLEX VIRUS 1 AND 2 (IGG) Neg 
ADENOVIRUS PCR Neg

CSF:
___ 03:06PM CEREBROSPINAL FLUID (CSF) WBC-2 RBC-1* Polys-87 
___ ___ 03:06PM CEREBROSPINAL FLUID (CSF) TotProt-18 Glucose-74
___ 05:00PM BLOOD ZINC-Test      

Bone Marrow Bx 
HYPOCELLULAR BONE MARROW WITH TRILINEAGE HEMATOPOIESIS AND 
DECREASED MEGAKARYOCYTES.  NO MORPHOLOGIC EVIDENCE OF 
TRANSFORMATION OR HEMOPHAGOCYTIC SYNDROME ARE SEEN.  SEE NOTE.

Note: The findings overall suggest marrow suppression, perhaps 
related to TKIs, rather than hemophagocytic syndrome, i.e. there 
are only occasional hemophagocytic macrophages present, with 
hemosiderin-laden macrophages predominating, and no overt marrow 
"damage" seen. 

Colon Bx:
Random colon, mucosal biopsies:
Colonic mucosa with focal crypt atrophy and dropout with rare 
basal crypt epithelial cell apoptoses consistent with graft 
versus host disease in the appropriate clinical setting; no 
viral cytopathic effect seen; see note.
Note: Given rare neutrophilic crypt abscesses, a concomitant 
acute infectious process cannot entirely be excluded. 
Immunostain for cytomegalovirus is in progress and will be 
reported in an addendum.
ADDENDUM #1: 
Immunostain for cytomegalovirus is negative with satisfactory 
controls.
ADDENDUM #2:
Immunostain for herpes simplex viruses 1 and 2 is negative with 
satisfactory controls.

Renal Bx:
KIDNEY (LEFT), CORE BIOPSY:

1.THROMBOTIC MICROANGIOPATHY, SEE NOTE.2.SEVERE INTERSTITIAL 
FIBROSIS AND TUBULAR ATROPHY.
Note: The biopsy shows striking acute and chronic thrombotic 
microangiopathy involving arterioles and glomeruli.  The biopsy 
also shows advanced scarring of the tubulointerstitial 
compartment (70-80% of the cortical area).

Imaging:
CT abd/pelvis ___
 
IMPRESSION: 
  
1.No wall thickening or pneumatosis concerning for colitis.    
  
2.Small amount of non-hemorrhagic intraperitoneal fluid. 

MRI C spine ___
IMPRESSION:  No cord compression or abnormal enhancement within 
the spinal canal.  Mild-to-moderate degenerative changes. 

MRI Head ___
IMPRESSION:  No acute infarcts, mass effect, hydrocephalus or 
abnormal 
enhancement.  Mild changes of small vessel disease.  Mucosal 
thickening left maxillary sinus and soft tissue changes in 
bilateral mastoids.

Renal US:
IMPRESSION: 
  
1. No evidence of hydronephrosis, stones, or focal renal 
lesions. 
2. Ascites. 

CT Chest ___
IMPRESSION: 
  
1.  Scattered small ground-glass and ___ opacities in 
the upper lobes could represent atypical infection, as 
suspected, or inflammation. 
  
2.  4 mm right upper lobe nodule is new since ___ 
and likely also infectious or inflammatory; this may be 
reassessed for resolution on follow-up imaging. 
  
3.  Hyperdense liver and spleen, similar to prior, likely due to 

hemosiderosis.  
  

Right lower extremity venous ultrasound ___:
Partial thrombus in the proximal right superficial femoral vein 
is relatively unchanged compared to the prior examination 
without evidence of DVT progression.   

 
Brief Hospital Course:
Ms. ___ is ___ with accelerated CML s/p allo transplant 
___ complicated by GVHD, pneumonia, myositis, and DVTs who 
initially presented with fatigue, diarrhea, pancytopenia in the 
setting of Cellcept and Ponatinib therapy.

# Diarrhea: Patient presented with 4 weeks of watery diarrhea 
with ___ bowel movements daily and poor appetite. Symptoms were 
most likely secondary to cellcept toxcity or ponatinib toxicity. 
Colon biopsy results were consisted with shallow crypts that are 
typically seen with GVHD or cellcept toxicity. While GVHD is a 
possible etiolgy, chronic GVHD is much less likely to present 
with acute diarrhea. An extensive infectious work up including 
norovirus, CMV, cdiff, adenovirus, parvovirus, HHV6, and O&P 
were negative. Ms. ___ improved with decreased cellcept 
dosing. She was transitioned from 1000mg BID to ___ BID at 
time of discharge. She continues to have ___ loose bowel 
movements daily. However, she continues to trend in a positive 
direction at the time of discharge. She did require 2 weeks of 
TPN but is now tolerating a PO diet at the time of discharge.

# Pancytopenia: Pt was noted to have progressive pancytopenia on 
outpatient labs over weeks preceeding admission. Pancytopenia is 
thought to be secondary to ponatinib toxicity as all cell lines 
improved after holding drug. Ms. ___ has experienced 
pancytopenia on previous TKI treatments as well. She was also 
transitioned from bactrim to atovaquone for PCP ___. A 
bone morrow biopsy was hypocellular but without concern for 
recurrent CML. A Graft chimerism study notable for 100% donor. 
Pt did also have HSV oral lesion and there may have been a 
component of HSV marrow suppression as her counts also improved 
with acyclovir therapy. Ponatinib is held at the time of 
discharge.

# Nephrotic syndrome:  The patient presented with acute on 
chronic CKD with creatinine around 2 this admission. Her 
creatinine has been gradually uptrending over the last year. It 
was never worked up and thought to be secondary to TKI therapy. 
She was found to have 4+ proteinuria this admission with low 
serum albumin and elevated triglycerides. A  renal biopsy was 
notable for acute on chronic microangiopathic disease, 
glomerular sclerosing and fibrosis of kidney. Etiology of 
changes remains unclear but differential is broad including 
effects of TKI treatment. There was no hydro or obtruction on 
renal us. Complement levels were normal and no serum 
cyroglobins. She was started on losartan 100mg daily and 
lisinopril 5mg for proteinuria. Pt was also started on aggresive 
IV diuresis for anasarca with improvement in fluid status. She 
will be discharged on 40mg PO Lasix with goal of maintaining 
within 2kg of her discharge weight, which was 143.6 lbs. 
Creatinine was stable around 2 at time of discharge. 

#Dyspnea: Patient promoted dyspnea during admission but never 
developed hypoxia. Symptoms were initially thought to be 
secondary to pulmonary edema and did improve with initial 
diuresis. However, symptoms did not completely resolve. A CT 
Chest was notable for some scattered ground glass opacities and 
a 4 mm right upper lobe nodule. PFTS show mixed obstructive and 
restrictive physiology. Fungal work up unrevealing. Pulmonology 
recommended a course of azithromycin for atypical pneumonia with 
follow up CT scan in 1 month. Dyspnea continued to improve at 
time of discharge following course of azithromycin. She was also 
started on pulmonary prophylaxis with FAM: daily fluticasone, 
azithromycin 3x/wk, monteleukast every other day.

#R lower extremity pain: Pt noted to have partial DVT of right 
superficial femoral vein which is unchanged from prev study in 
___ and most likely represents remnent from previous distal 
DVT which were treated with 6 months of anticoagulation. 
Vascular surg evaluated vascular appearing lesion on right lower 
extreity and are uncertain regarding etiology. ___ be secondary 
to smaller superficial thrombi in smaller leg veins. Recommend 
continued warm compresses, compression,and elevation of leg. 
Further anticoagulation at prophylactic dosing should be 
discussed as an outpatient once platlets are stable.

# Seizure like activity: Pt has 3 episodes of right neck 
twitching and mental status changes on ___ which appeared 
seizure like to staff. There was no tongue biting or generalized 
activity. An MRI Head was normal and LP without concern for 
bacterial infection. Viral cultures were all negative from CSF. 
An EEG was notable for encephalopathy without epileptical 
discharges. Pt experienced no further concerning neurologic 
changes following ___.

# HSV:Pt promoted oral pain on admission and was found to have 
several ulcerative lesions. An oral swab of lesions was positive 
for HSV. Symptoms and ulcers improved on acyclovir. She will 
continue prophylactic dosing as an outpatient.

#CML: Ms. ___ is status ___ allogenic transplant in ___ 
with recurrent disease in late ___. Disease has currently been 
well controlled on ponatinib with BCR-ABL PCR .09. However,has 
now been discontinued as drug toxicity outweighing benefits of 
treatment. As noted above, repeat bone marrow bx this admission 
without concern for recurrent disease. Chimerism study showed 
100% donor.

# GVHD: Has had GI  and skin involvement in past in addition to 
myositis. Has been well controlled on current MMF and prednisone 
dosing. While there was initial concern for GVHD as etiology to 
current presentation, it is uncommon to have diarrhea with 
chronic GVHD. Cellcept and prednisone doses were decreased this 
admission. She will need to closely monitor with recent decrease 
in immunosuppresion. 

#HTN: Ms. ___ had poorly controlled hypertension this 
admission. Most likely related to pregressive kidney disease. 
She was started on losartan, which was uptitrated to 100mg with 
good BP control by discharge.

#Hypogammablobulinemia: Likely ___ nephrotic syndrome and 
protein wasting. At admission, IgG level was 82 and she received 
an IVIg transfusion at 0.4g/kg. On ___, she received a second 
IVIg transfusion at the same dose for an IGg level of 300. 
During the second transfusion, she had some mild upper back pain 
and chills, which resolved with slowing the infusion.
 
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
=
================================================================
TRANSITIONAL ISSUES:

Please draw CBC w/ diff 2x/wk and fax results to patient's 
oncologist, Dr. ___: Fax: ___.

Patient received IVIg on ___. She may experience a severe 
headache within the first 72 hours after infusion, which can be 
treated with Tylenol.

Patient is being discharged on 40mg PO Lasix daily. This dose 
should be titrated to maintain her weight within 2kg of her 
weight upon arrival at ___.

Patient needs repeat chest CT 1 month after discharge to look 
for resolution of changes seen on CT during this admission.

Patient should arrange an appointment with a nephrologist close 
to her home in ___ within the next ___ months. If such 
arrangements cannot be made through the rehab facility; she 
should contact the ___ clinic at ___ and 
schedule an appointment with Dr. ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 300 mg PO DAILY 
hold for HR <60, SBP < 100 
2. PredniSONE 25 mg PO DAILY 
3. Amlodipine 5 mg PO DAILY 
4. Mycophenolate Mofetil 1000 mg PO BID 
5. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
hold for rr <10 
6. Nystatin Oral Suspension 5 mL PO QID 
7. Omeprazole 20 mg PO DAILY 
8. Calcium Carbonate 500 mg PO BID 
9. Aspirin 81 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
2. PredniSONE 20 mg PO DAILY 
3. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
4. Omeprazole 20 mg PO DAILY 
5. Nystatin Oral Suspension 5 mL PO QID 
6. Mycophenolate Mofetil 250 mg PO BID 
7. Calcium Carbonate 500 mg PO BID 
8. Metoprolol Succinate XL 300 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Acyclovir 400 mg PO Q8H 
11. Aquaphor Ointment 1 Appl TP BID 
12. Atovaquone Suspension 1500 mg PO DAILY 
13. Losartan Potassium 100 mg PO DAILY 
14. Allopurinol ___ mg PO DAILY 
15. Azithromycin 250 mg PO 3X/WEEK (___) 
16. Fluticasone Propionate 110mcg 4 PUFF IH BID 
17. Furosemide 40 mg PO DAILY 
18. Guaifenesin ___ mL PO Q6H:PRN cough 
19. Montelukast Sodium 10 mg PO EVERY OTHER DAY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Mycophenolate Mofetil colitis
CML status post allogenic stem cell transplant
Graft versus host disease
Pancytopenia
Nephrotic syndrome
Hypogammablobulinemia
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear ___,

It was a pleasure taking care of ___ at ___. 
___ came in for several weeks of watery diarrhea which we 
believe is due to cellcept toxicity. We decreased your dose of 
cellcept with improvement of your symptoms. ___ were also found 
to have a condition called pancytopenia, which means low number 
of blood cells. We believe your CML medication ponatinib caused 
this and your blood counts improved when we discontinued this 
medication. 

___ were also found to have worsening kidney function this 
admission. The cause of your kidney problem is unclear but may 
also be due to the drug ponatinib. ___ were placed on losartan, 
which will help the kidney function better. ___ will continue to 
follow up with Dr. ___ as an outpatient.
 
Followup Instructions:
___